US07351733B2
To a solution of 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one (500 mg, 1.9 mmol) in methanol (20 mL) was added sodium borohydride (144 mg, 3.8 mmol) portionwise. The reaction mixture was stirred for one hour and quenched with water (5 mL). The reaction was concentrated, diluted with methylene chloride and washed with water. The organic phase was concentrated and the crude alcohol purified by flash chromatography on silica (5% to 30% ethyl acetate/hexanes gradient) to provide 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-ol (255 mg, 50%) as a light brown solid: 1H-NMR (DMSO-d6): δ 10.99 (s, 1H), 7.54 (d, 1H), 7.25 (d, 1H), 7.12 (dd, 1H), 5.18 (d, 1H), 4.75-4.70 (m, 1H), 2.64-2.53 (m, 2H), 2.02-1.91 (m, 2H), 1.77-1.66 (m, 2H); MS m/z (M−1) 339, 341.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one | 1.9 mmol, 500 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10BrNO
reactant | sodium borohydride | 3.8 mmol, 144 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-ol | 255 mg, 50% | BrC=1C=C2C=3CCCC(C3NC2=CC1)O | C12H12BrNO
